US07338960B2
Ethyl 3-[2-methyl-4-({[4′-(trifluoromethyl)-3-biphenylyl]methyl}oxy)phenyl]propanoate
To a solution of [4′-(trifluoromethyl)-3-biphenylyl]methanol (121 mg, 0.48 mmol) in dry THF (5 mL) under nitrogen at 0° C. (ice/water bath) was added nBu3P (240 μL, 0.96 mmol) followed by ethyl 3-(4-hydroxy-2-methylphenyl)propanoate (100 mg, 0.48 mmol) and then ADDM (246 mg, 0.96 mmol) portion-wise. The mixture was stirred at 0° C. for 1 hour, allowed to warm to rt over 21 hours and then partitioned between water and EtOAc, and the layers separated. The aqueous layer was then extracted with EtOAc and the combined organic extract washed with water and then brine, dried (Na2SO4) and the solvent removed under vacuum. Purification by flash chromatography (silica) eluting with cyclohexane:EtOAc (15:1) afforded the title compound as a clear oil (141 mg).

reactant | [4′-(trifluoromethyl)-3-biphenylyl]methanol | 0.48 mmol, 121 mg | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)CO)(F)F | C14H11F3O
reactant | nBu3P | 0.96 mmol, 240 μL | P(CCCC)(CCCC)CCCC | C12H27P
reactant | ethyl 3-(4-hydroxy-2-methylphenyl)propanoate | 0.48 mmol, 100 mg | OC1=CC(=C(C=C1)CCC(=O)OCC)C | C12H16O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl 3-[2-methyl-4-({[4′-(trifluoromethyl)-3-biphenylyl]methyl}oxy)phenyl]propanoate | 141 mg | CC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OCC | C26H25F3O3
